US04755511
A mixture of 7-amino-4,4a,-dihydro-4a-methyl-[5H]-indeno[1,2-c]pyridazin-3[2H]-one (0.78 g), dimethyl cyanodithioiminocarbonate (1.02 g) in dry pyridine (20 ml) were stirred under reflux for 3 hours. The reaction mixture was evaporated to dryness, azeotroped several times with water and the residue triturated with acetone to give 7-(N-cyano-S-methylisothioureido)-4,4a,-dihydro-4a-methyl-[5H]-indeno[1,2-c]pyridazin-3[2H]-one (0.28 g) as a solid, m.p. 240° (d).

reactant | 7-amino-4,4a,-dihydro-4a-methyl-[5H]-indeno[1,2-c]pyridazin-3[2H]-one | 0.78 g | NC=1C=C2CC3(C(=NNC(C3)=O)C2=CC1)C | C12H13N3O
reactant | dimethyl cyanodithioiminocarbonate | 1.02 g | CSC(=NC#N)SC | C4H6N2S2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 7-(N-cyano-S-methylisothioureido)-4,4a,-dihydro-4a-methyl-[5H]-indeno[1,2-c]pyridazin-3[2H]-one | 0.28 g | C(#N)N(C(SC)=N)C=1C=C2CC3(C(=NNC(C3)=O)C2=CC1)C | C15H15N5OS
